US06683096B2
A. Preparation of 7-methyl-3-piperidin-4-yl-1H-indole
This compound was prepared following the procedure described in Example 1 (parts A and B) starting with 1 g (7.6 mmol) of 7-methylindol and 2.9 g (19 mmol) of 4-piperidone monohydrate hydrochloride. After the usual work-up 0.8 g (50% of yield) of the desired product were obtained.

reactant | 7-methylindol | 7.6 mmol, 1 g | CC=1C=CC=C2C=CNC12 | C9H9N
reactant | 4-piperidone monohydrate hydrochloride | 19 mmol, 2.9 g | Cl.O.N1CCC(CC1)=O
product | 7-methyl-3-piperidin-4-yl-1H-indole | CC=1C=CC=C2C(=CNC12)C1CCNCC1 | C14H18N2
